US07342131B2
1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDAC) (3.4 g, 17.7 mmol) was slowly added to a solution of 4-methoxybenzoic acid (2.0 g, 13.1 mmol), 3-bromopropan-1-ol (1.1 mL, 12.6 mmol), and 4-(dimethylamino)pyridine (100 mg) in 80 mL of anhydrous dichloromethane. The mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with dichloromethane and washed with 0.5N HCl twice, followed by the addition of saturated NaHCO3 solution and brine. The organic layer was dried through MgSO4 and concentrated under reduced pressure. Chromatography (silica gel, 1:10 ethyl acetate/hexane) of the residue afforded 2.1 g (61%) of 3-Bromopropyl 4-methoxybenzoate.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 17.7 mmol, 3.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-methoxybenzoic acid | 13.1 mmol, 2.0 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 3-bromopropan-1-ol | 12.6 mmol, 1.1 mL | BrCCCO | C3H7BrO
catalyst | 4-(dimethylamino)pyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-Bromopropyl 4-methoxybenzoate | 2.1 g, 61% | COC1=CC=C(C(=O)OCCCBr)C=C1 | C11H13BrO3
